US04288624
1-Dimethylamino-6-methoxy-2-(3-trifluoromethylphenyl)-1-hexene-3,5-dione
A 3.9 g. portion of diisopropylamine was dissolved in 170 ml. of dry tetrahydrofuran, and the mixture was chilled under a nitrogen blanket to about -70°. Sixteen ml. of 2.4-molar n-butyllithium solution was added dropwise at constant temperature and the mixture was stirred for 55 minutes. To the mixture was then added 8.3 g. of 1-dimethylamino-2-(3-trifluoromethylphenyl)-1-butene-3-one dissolved in 25 ml. of tetrahydrofuran and 50 ml. of hexamethylphosphoramide over a period of 5 minutes. The mixture was stirred for 1 hour, and to it was added 4.2 g. of methoxyacetyl chloride dissolved in 40 ml. of tetrahydrofuran. The reaction mixture was then allowed to warm slowly to ambient temperature, and was stirred for 5 days. The mixture was then made acid to pH 5 with saturated potassium dihydrogen phosphate solution, and was partitioned between diethyl ether and water. The organic layer was washed with saturated sodium chloride solution, dried over magnesium sulfate and evaporated to dryness under vacuum. The residue was chromatographed on a 300 g. silica gel column with 15 percent ethyl acetate in dichloromethane as the eluting solvent. The product-containing fractions were combined and evaporated under vacuum to dryness to obtain 1 g. of the desired product, which was identified by conversion to the pyridinone in Preparation 2 below.

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.4-molar | C(CCC)[Li]
reactant | 1-dimethylamino-2-(3-trifluoromethylphenyl)-1-butene-3-one | CN(C=C(C(C)=O)C1=CC(=CC=C1)C(F)(F)F)C | C13H14F3NO
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
reactant | pyridinone | N1C(C=CC=C1)=O | C5H5NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 1-Dimethylamino-6-methoxy-2-(3-trifluoromethylphenyl)-1-hexene-3,5-dione | CN(C=C(C(CC(COC)=O)=O)C1=CC(=CC=C1)C(F)(F)F)C | C16H18F3NO3
